2121-01-31 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Axillary Aline placed
   -3sets of CE done; remained flat; cardiology consulted given ? evolving
   EKG changes and ECHO done with EF 20%
   -Evidence of pancreatitis Amylase 109, Lipase 374
   -Cards felt respiratory failure due to HTN causing flash pulmonary
   edema in setting of depressed EF and that hypotension not likely
   cardiogenic shock given HTN on initial admission and no evidence of RV
   dilation on TTE.  Suggested trial of diuresis if need to improve
   oxygenation.  Felt hypotension could be [**1-28**] pancreatitis vs hemorrhagic
   shock; did not feel ACS but did agree w/statin, aspirin. Did think
   patient may benefit from eventual cath vs stress AND may benefit from
   swan pending what other results return
   -Patient noted to have pulsatile mass and given 10pt Hct drop-->ordered
   CT torso to evalute for pancreatitis, dissecting aneurysm and PE; held
   heparin that was initially started given Hct drop
   -Prelim CT Read:
   Bilateral pleural effusions and associated bibasilar atelectasis.
   Diffuse ground glass opacification scattered throughout both lung
   fields, non-specific could relate to edema, infection or inflammation.
   No CT evidence of pancreatitis, can correlate with labs. No evidence of
   pulmonary embolism to the subsegmental levels and no evidence of
   abdominal aortic aneurysm. Status post gastric banding.
   -Looked through old records and clean cath [**2110**]
   -Sent TSH, thiamine for nutritional deficiencies given lap band and
   cardiomyopathy
   -D-dimer 1861
   -Repeat lactate 2.1-->1.0 this AM
   -Temp 100.1 at MN
   -Weaned off dobutamine, on Levo .08
   -On PSV 8/8
   -Hct 52->47->40->37.9
 INVASIVE VENTILATION - START [**2121-1-30**] 12:00 PM
 MULTI LUMEN - START [**2121-1-30**] 01:24 PM
 BLOOD CULTURED - At [**2121-1-30**] 02:37 PM
   TLCL
 SPUTUM CULTURE - At [**2121-1-30**] 02:37 PM
 URINE CULTURE - At [**2121-1-30**] 02:38 PM
 TRANSTHORACIC ECHO - At [**2121-1-30**] 04:11 PM
 ARTERIAL LINE - START [**2121-1-30**] 06:00 PM
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-30**] 05:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-1-31**] 12:29 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Heparin Sodium - [**2121-1-30**] 02:36 PM
   Fentanyl - [**2121-1-30**] 06:30 PM
   Midazolam (Versed) - [**2121-1-30**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-1-31**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 72 (68 - 109) bpm
   BP: 107/66(81) {86/51(64) - 140/74(98)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 14 (10 - 14)mmHg
   Total In:
                                                                  3,088 mL
                                                                  1,142 mL
   PO:
   TF:
   IVF:
                                                                  2,888 mL
                                                                  1,142 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    545 mL
   Urine:
                                                                    635 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,653 mL
                                                                    597 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 2 cmH2O
   Compliance: -61.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/44/121/24/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   276 K/uL
   12.6 g/dL
   111 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   28 mg/dL
   108 mEq/L
   140 mEq/L
   37.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2121-1-30**]  01:50 PM
                             [**2121-1-30**]  03:16 PM
                             [**2121-1-30**]  03:44 PM
                             [**2121-1-30**]  06:28 PM
                             [**2121-1-30**]  08:38 PM
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
   WBC
   22.3
   10.7
   Hct
   46.7
   40.5
   37.9
   Plt
   397
   276
   Cr
   0.9
   0.7
   TropT
   0.08
   0.05
   TCO2
   24
   26
   24
   24
   26
   26
   Glucose
   311
   111
   Other labs: PT / PTT / INR:12.2/22.8/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/1.2, Amylase
   / Lipase:109/374, Differential-Neuts:83.5 %, Band:0.0 %, Lymph:10.8 %,
   Mono:5.3 %, Eos:0.1 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:326 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   54 year old woman with past medical history of morbid obesity (s/p
   gastric lap banding), hypertension, hyperlipidemia, presenting with
   acute respiratory distress and malignant hypertension.
   .
   # RESPIRATORY FAILURE: Differential initially broad; including
   pulmonary edema (has low EF and pulmonary edema on CXR) vs pneumonia (?
   Infiltrates on exam, elevated WBC on admission/hypotension) vs PE
   (body  habitus, acute onset of presentation); CT Chest does not show
   any evidence of PE thus heparin gtt stopped; it does show ground glass
   opacifications which could represent edema vs infection vs inflammation
   plus b/l effusions. Pt was given initial dose of Lasix and covered
   broadly with vanc/zosyn on arrival. Respiratory status improving; pt
   was weaned overnight to PSV 8/8 and doing well
   .Continue PSV and repeat ABG; RSBI and ? able to extubate
   -Continue broad coverage with Vanc/Zosyn for possible pneumonia
   -F./u final CT read but no evidnece of PE on initial read
   # HYPOTENSION;Initial differential concerning for septic vs cardiogenic
   shock vs PE; however stat ECHO showed EF20% and pts initial
   presentation was hypertension; 3 sets of cardiac enzymes are negative
   and EKG not felt to be c/w ACS. Pt did have a fever/leukocytosis (now
   trending down) making  septic shock more likely.  Other possibilities
   include hemorrhagic given Hct drop (52 to 40) and pulsatile mass on
   exam; but CT chest did not show evidence of bleed or dissecting
   aneurysm to account for this.  LFTs do show evidence of pancreatitis
   although CT did not show any evidnece of this
   -- CVL in place
   --Continue to wean off pressors
   --Broad coverage with Vanc/Zosyn, day #2
   --IVF (gentle given low EF), NPO for pancreatitis, repeat
   amylase/lipase this AM
   -- Levophed for goal MAP>65
   #Cardiomyopathy- EF 20% on admission; unclear cause; cardiology
   consulted because of dynamic ekg changes seen and concern for
   cardiogenic shock. Felt pt unlikely having ACS
   -Consider swan
   -Continue aspirin, statin
   -
   .
   # DIABETES: Pt with very high glucose on presentation
   -- Continue Insulin drip with conservative goal 120 to 140
   ..
   # OBESITY: S/P Lap banding, pt at increased risk of DVT, will need to
   use Ideal body weight for ventilation
   .
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Intravenous heparin
   # Access: peripherals
   # Communication: Wife, ([**Telephone/Fax (1) 11329**]
   # Code: Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PANCREATITIS, ACUTE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   20 Gauge - [**2121-1-30**] 01:27 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-01-31 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Axillary Aline placed
   -3sets of CE done; remained flat; cardiology consulted given ? evolving
   EKG changes and ECHO done with EF 20%
   -Evidence of pancreatitis Amylase 109, Lipase 374
   -Cards felt respiratory failure due to HTN causing flash pulmonary
   edema in setting of depressed EF and that hypotension not likely
   cardiogenic shock given HTN on initial admission and no evidence of RV
   dilation on TTE.  Suggested trial of diuresis if need to improve
   oxygenation.  Felt hypotension could be [**1-28**] pancreatitis vs hemorrhagic
   shock; did not feel ACS but did agree w/statin, aspirin. Did think
   patient may benefit from eventual cath vs stress AND may benefit from
   swan pending what other results return
   -Patient noted to have pulsatile mass and given 10pt Hct drop-->ordered
   CT torso to evalute for pancreatitis, dissecting aneurysm and PE; held
   heparin that was initially started given Hct drop
   -Prelim CT Read:
   Bilateral pleural effusions and associated bibasilar atelectasis.
   Diffuse ground glass opacification scattered throughout both lung
   fields, non-specific could relate to edema, infection or inflammation.
   No CT evidence of pancreatitis, can correlate with labs. No evidence of
   pulmonary embolism to the subsegmental levels and no evidence of
   abdominal aortic aneurysm. Status post gastric banding.
   -Looked through old records and clean cath [**2110**]
   -Sent TSH, thiamine for nutritional deficiencies given lap band and
   cardiomyopathy
   -D-dimer 1861
   -Repeat lactate 2.1-->1.0 this AM
   -Temp 100.1 at MN
   -Weaned off dobutamine, on Levo .08
   -On PSV 8/8
   -Hct 52->47->40->37.9
 INVASIVE VENTILATION - START [**2121-1-30**] 12:00 PM
 MULTI LUMEN - START [**2121-1-30**] 01:24 PM
 BLOOD CULTURED - At [**2121-1-30**] 02:37 PM
   TLCL
 SPUTUM CULTURE - At [**2121-1-30**] 02:37 PM
 URINE CULTURE - At [**2121-1-30**] 02:38 PM
 TRANSTHORACIC ECHO - At [**2121-1-30**] 04:11 PM
 ARTERIAL LINE - START [**2121-1-30**] 06:00 PM
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-30**] 05:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-1-31**] 12:29 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Heparin Sodium - [**2121-1-30**] 02:36 PM
   Fentanyl - [**2121-1-30**] 06:30 PM
   Midazolam (Versed) - [**2121-1-30**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-1-31**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 72 (68 - 109) bpm
   BP: 107/66(81) {86/51(64) - 140/74(98)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 14 (10 - 14)mmHg
   Total In:
                                                                  3,088 mL
                                                                  1,142 mL
   PO:
   TF:
   IVF:
                                                                  2,888 mL
                                                                  1,142 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    545 mL
   Urine:
                                                                    635 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,653 mL
                                                                    597 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 2 cmH2O
   Compliance: -61.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/44/121/24/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   276 K/uL
   12.6 g/dL
   111 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   28 mg/dL
   108 mEq/L
   140 mEq/L
   37.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2121-1-30**]  01:50 PM
                             [**2121-1-30**]  03:16 PM
                             [**2121-1-30**]  03:44 PM
                             [**2121-1-30**]  06:28 PM
                             [**2121-1-30**]  08:38 PM
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
   WBC
   22.3
   10.7
   Hct
   46.7
   40.5
   37.9
   Plt
   397
   276
   Cr
   0.9
   0.7
   TropT
   0.08
   0.05
   TCO2
   24
   26
   24
   24
   26
   26
   Glucose
   311
   111
   Other labs: PT / PTT / INR:12.2/22.8/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/1.2, Amylase
   / Lipase:109/374, Differential-Neuts:83.5 %, Band:0.0 %, Lymph:10.8 %,
   Mono:5.3 %, Eos:0.1 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:326 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   54 year old woman with past medical history of morbid obesity (s/p
   gastric lap banding), hypertension, hyperlipidemia, presenting with
   acute respiratory distress and malignant hypertension.
   .
   # RESPIRATORY FAILURE: Patient noted to be "in extremus" per ED report,
   intubated initially with ETT in right main stem. Patient with
   periprocedural hypotension (see below), however noted to be severely
   hypertensive on admission.
   Given question of cardiomyopathy on medical record, malignant
   hypertension on arrival and appearance of chest x-ray, ED staff
   suspected flash pulmonary edema as most likely culprit, however other
   etiologies would include pneumonia, aspiration, ARDS, PE, cardiogenic
   shock from ischemia, decompensated cor pulmonale.
   Given BMI, high risk of DVT and PE. Also given extensive family history
   and hyperacute presentation, cardiac ischemia seems very likely.
   -- Given high risk of PE, start heparin empirically (also given high
   suspicion of coronary ischemia)
   -- CTA Chest once stable for transport
   -- Will adjust heparin given pts high discrepancy between ideal and
   actual weight
   -- STAT ECHO, eval for RV strain vs focal wall motion abnormality.
   -- F/U Formal CXR read
   -- A line placement
   -- Wean FIO2 as tolerated, currently on 100%
   -- Given high concern for infection and given critical condition, will
   given one dose of Vancomycin and Zosyn while more data is obtained.
   .
   # HYPOTENSION; DDx nearly identical to above, with most concerning
   etiolgies remaining PE vs, Cardiogenic shock and early sepsis
   -- A line placement
   -- STAT ECHO
   -- Transduce CVP
   -- Would consider Vigileo for hemodynamic monitoring
   -- Vanc/ Zosyn
   -- CVL in place, Levophed gtt as necessary
   -- MAP goal > 55
   -- Cardiac enzymes q8H
   .
   # DIABETES: Pt with very high glucose on presentation
   -- Start Insulin drip with conservative goal 120 to 140
   .
   # Hyperlipidemia / CAD: Very strong family history of CAD, presentation
   and dynamic ECG changes now. DDx now includes demand ischemia vs early
   MI
   -- Atorvastatin loading dose
   -- Aspirin
   -- If enzymes turn positive, will load with Clopidogrel
   .
   # OBESITY: S/P Lap banding, pt at increased risk of DVT, will need to
   use Ideal body weight for ventilation
   .
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Intravenous heparin
   # Access: peripherals
   # Communication: Wife, ([**Telephone/Fax (1) 11329**]
   # Code: Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PANCREATITIS, ACUTE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   20 Gauge - [**2121-1-30**] 01:27 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-01-31 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Axillary Aline placed
   -3sets of CE done; remained flat; cardiology consulted given ? evolving
   EKG changes and ECHO done with EF 20%
   -Evidence of pancreatitis Amylase 109, Lipase 374
   -Cards felt respiratory failure due to HTN causing flash pulmonary
   edema in setting of depressed EF and that hypotension not likely
   cardiogenic shock given HTN on initial admission and no evidence of RV
   dilation on TTE.  Suggested trial of diuresis if need to improve
   oxygenation.  Felt hypotension could be [**1-28**] pancreatitis vs hemorrhagic
   shock; did not feel ACS but did agree w/statin, aspirin. Did think
   patient may benefit from eventual cath vs stress AND may benefit from
   swan pending what other results return
   -Patient noted to have pulsatile mass and given 10pt Hct drop-->ordered
   CT torso to evalute for pancreatitis, dissecting aneurysm and PE; held
   heparin that was initially started given Hct drop
   -Prelim CT Read:
   Bilateral pleural effusions and associated bibasilar atelectasis.
   Diffuse ground glass opacification scattered throughout both lung
   fields, non-specific could relate to edema, infection or inflammation.
   No CT evidence of pancreatitis, can correlate with labs. No evidence of
   pulmonary embolism to the subsegmental levels and no evidence of
   abdominal aortic aneurysm. Status post gastric banding.
   -Looked through old records and clean cath [**2110**]
   -Sent TSH, thiamine for nutritional deficiencies given lap band and
   cardiomyopathy
   -D-dimer 1861
   -Repeat lactate 2.1-->1.0 this AM
   -Temp 100.1 at MN
   -Weaned off dobutamine, on Levo .08
   -On PSV 8/8
   -Hct 52->47->40->37.9
 INVASIVE VENTILATION - START [**2121-1-30**] 12:00 PM
 MULTI LUMEN - START [**2121-1-30**] 01:24 PM
 BLOOD CULTURED - At [**2121-1-30**] 02:37 PM
   TLCL
 SPUTUM CULTURE - At [**2121-1-30**] 02:37 PM
 URINE CULTURE - At [**2121-1-30**] 02:38 PM
 TRANSTHORACIC ECHO - At [**2121-1-30**] 04:11 PM
 ARTERIAL LINE - START [**2121-1-30**] 06:00 PM
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-30**] 05:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-1-31**] 12:29 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Heparin Sodium - [**2121-1-30**] 02:36 PM
   Fentanyl - [**2121-1-30**] 06:30 PM
   Midazolam (Versed) - [**2121-1-30**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-1-31**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 72 (68 - 109) bpm
   BP: 107/66(81) {86/51(64) - 140/74(98)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 14 (10 - 14)mmHg
   Total In:
                                                                  3,088 mL
                                                                  1,142 mL
   PO:
   TF:
   IVF:
                                                                  2,888 mL
                                                                  1,142 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    545 mL
   Urine:
                                                                    635 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,653 mL
                                                                    597 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 2 cmH2O
   Compliance: -61.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/44/121/24/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   276 K/uL
   12.6 g/dL
   111 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   28 mg/dL
   108 mEq/L
   140 mEq/L
   37.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2121-1-30**]  01:50 PM
                             [**2121-1-30**]  03:16 PM
                             [**2121-1-30**]  03:44 PM
                             [**2121-1-30**]  06:28 PM
                             [**2121-1-30**]  08:38 PM
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
   WBC
   22.3
   10.7
   Hct
   46.7
   40.5
   37.9
   Plt
   397
   276
   Cr
   0.9
   0.7
   TropT
   0.08
   0.05
   TCO2
   24
   26
   24
   24
   26
   26
   Glucose
   311
   111
   Other labs: PT / PTT / INR:12.2/22.8/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/1.2, Amylase
   / Lipase:109/374, Differential-Neuts:83.5 %, Band:0.0 %, Lymph:10.8 %,
   Mono:5.3 %, Eos:0.1 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:326 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   54 year old woman with past medical history of morbid obesity (s/p
   gastric lap banding), hypertension, hyperlipidemia, presenting with
   acute respiratory distress and malignant hypertension.
   .
   # RESPIRATORY FAILURE: Differential initially broad; including
   pulmonary edema (has low EF and pulmonary edema on CXR) vs pneumonia (?
   Infiltrates on exam, elevated WBC on admission/hypotension); CT Chest
   does not show any evidence of PE thus heparin gtt stopped; it does show
   ground glass opacifications which could represent edema vs infection vs
   inflammation plus b/l effusions. Pt was given initial dose of Lasix and
   covered broadly with vanc/zosyn on arrival. Respiratory status
   improving; pt was weaned overnight to PSV 8/8 and doing well
   .Continue PSV and repeat ABG; RSBI and ? able to extubated
   - possible extubation
   -Continue broad coverage with Vanc/Zosyn for possible pneumonia
   - f/u sputum
   -F./u final CT read but no evidnece of PE on initial read
   -will plan to diurese, goal -1L today. CVP goal [**2-28**].   Will give lasix
   20mg IV x1 for now and monitor
   # HYPOTENSION;Initial differential concerning for septic vs cardiogenic
   shock vs PE; however stat ECHO showed EF20% and pts initial
   presentation was hypertension; 3 sets of cardiac enzymes are negative
   and EKG not felt to be c/w ACS. Pt did have a fever/leukocytosis (now
   trending down) making  septic shock more likely.  Other possibilities
   include hemorrhagic given Hct drop (52 to 40) and pulsatile mass on
   exam; but CT chest did not show evidence of bleed or dissecting
   aneurysm to account for this.  LFTs do show evidence of pancreatitis
   although CT did not show any evidnece of this. Pt weaned off pressors
   this AM
   -- CVL in place
   --Broad coverage with Vanc/Zosyn, day #2
   --IVF (gentle given low EF), NPO for pancreatitis, repeat
   amylase/lipase this AM
   --Goal MAP>65
   -- f/u final read of CT to r/o RP bleed
   .
   #. Acute Anemia: No evidence of active bleed on CT scan.  Hct has been
   stable overnight.
   - monitor Hct
   - f/u final CT to look for RP bleed
   - hemolysis labs
   #Cardiomyopathy- EF 20% on admission; unclear cause; cardiology
   consulted because of dynamic ekg changes seen and concern for
   cardiogenic shock. Felt pt unlikely having ACS
   -Consider swan
   -Continue aspirin, statin
   - TSH and thiamine
   .
   # DIABETES: Pt with very high glucose on presentation
   -- Continue Insulin drip with conservative goal 120 to 140
   -- will switch to sliding scale
   ..
   # OBESITY: S/P Lap banding, pt at increased risk of DVT, will need to
   use Ideal body weight for ventilation
   .
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: sq heparin
   # Access: peripherals
   # Communication: Wife, ([**Telephone/Fax (1) 11329**]
   # Code: Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PANCREATITIS, ACUTE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   20 Gauge - [**2121-1-30**] 01:27 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-01-31 09:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo morbidly obese woman admitted w/ hypoxemic resp failure and
   shock.
   24 Hour Events:
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-30**] 05:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-1-31**] 12:29 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Heparin Sodium - [**2121-1-30**] 02:36 PM
   Fentanyl - [**2121-1-30**] 06:30 PM
   Midazolam (Versed) - [**2121-1-30**] 06:30 PM
   Other medications:
   famotidine, ASA, Lipitor
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-1-31**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 72 (68 - 109) bpm
   BP: 107/66(81) {86/51(64) - 140/74(98)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 14 (10 - 14)mmHg
   Total In:
                                                                  3,088 mL
                                                                  1,358 mL
   PO:
   TF:
   IVF:
                                                                  2,888 mL
                                                                  1,358 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    545 mL
   Urine:
                                                                    635 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,653 mL
                                                                    813 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 472 (472 - 472) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   Plateau: 2 cmH2O
   Compliance: -61.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/44/121/24/0
   Ve: 7.5 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.6 g/dL
   276 K/uL
   111 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   28 mg/dL
   108 mEq/L
   140 mEq/L
   37.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2121-1-30**]  01:50 PM
                             [**2121-1-30**]  03:16 PM
                             [**2121-1-30**]  03:44 PM
                             [**2121-1-30**]  06:28 PM
                             [**2121-1-30**]  08:38 PM
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
   WBC
   22.3
   10.7
   Hct
   46.7
   40.5
   37.9
   Plt
   397
   276
   Cr
   0.9
   0.7
   TropT
   0.08
   0.05
   TCO2
   24
   26
   24
   24
   26
   26
   Glucose
   311
   111
   Other labs: PT / PTT / INR:12.2/22.8/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/1.2, Amylase
   / Lipase:109/374, Differential-Neuts:83.5 %, Band:0.0 %, Lymph:10.8 %,
   Mono:5.3 %, Eos:0.1 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:326 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Imaging: Echo- EF 20%, apical akinesis, LV hypokinesis
   CT Torso- no PE, no aneurysm/ dissection, no evidence of pancreatitis
   CXR-
   Microbiology: Sputum- poor smple
   Blood- pending
   Assessment and Plan
   54 yo morbidly obese woman admitted w/ hypoxemic resp failure and
   shock.
   (1) ACUTE RESP FAILURE- DDx includes pna + cardiogenic edema/ effusions
   -cont vanco + zosyn empirically; re-send sputum cx
   -diuresis to target TBB -1-2L/d; goal CVP ~5
   -poss extubation today- may need direct to CPAP given very high
   likelihood for OSA
   (2) SHOCK- resolved, presumed septic; 10pt hct drop as well but no
   clinical correlate
   -cont to monitor Hct and manage infection as above
   -FACTT trial based diuresis today to aid liberation from vent
   (3) ACUTE ANEMIA- evaluating for occult loss vs hemolysis
   -serial hct
   -hemolysis labs
   (4) CARDIOMYOPATHY- low EF unclear etiology; no ACS and clean cath in
   [**2110**]. Takotsubo physiology an intriguing possibility given pattern of
   HK/AK on echo
   -f/u thiamine levels
   -eventual low-dose BB and ACE
   -appreciate Cards input
   (5) PSYCH- resume home Celexa
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:  Insulin infusion, Blood sugar well controlled
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   20 Gauge - [**2121-1-30**] 01:27 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2121-01-31 09:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo morbidly obese woman admitted w/ hypoxemic resp failure and
   shock.
   24 Hour Events:
   Very active day, summarized well in Dr [**First Name (STitle) 284**]
s note. Overnight titrated
   off dobutamine, FiO2 weaned down, CT torso reviewed - no PE, no
   aneurysm/ dissection, no radiographic evidence of pancreatitis
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-30**] 05:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-1-31**] 12:29 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Heparin Sodium - [**2121-1-30**] 02:36 PM
   Fentanyl - [**2121-1-30**] 06:30 PM
   Midazolam (Versed) - [**2121-1-30**]
   Other medications:
   famotidine, ASA, Lipitor
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-1-31**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 72 (68 - 109) bpm
   BP: 107/66(81) {86/51(64) - 140/74(98)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 14 (10 - 14)mmHg
   Total In:
                                                                  3,088 mL
                                                                  1,358 mL
   PO:
   TF:
   IVF:
                                                                  2,888 mL
                                                                  1,358 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    545 mL
   Urine:
                                                                    635 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,653 mL
                                                                    813 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 472 (472 - 472) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   Plateau: 2 cmH2O
   Compliance: -61.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/44/121/24/0
   Ve: 7.5 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.6 g/dL
   276 K/uL
   111 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   28 mg/dL
   108 mEq/L
   140 mEq/L
   37.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2121-1-30**]  01:50 PM
                             [**2121-1-30**]  03:16 PM
                             [**2121-1-30**]  03:44 PM
                             [**2121-1-30**]  06:28 PM
                             [**2121-1-30**]  08:38 PM
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
   WBC
   22.3
   10.7
   Hct
   46.7
   40.5
   37.9
   Plt
   397
   276
   Cr
   0.9
   0.7
   TropT
   0.08
   0.05
   TCO2
   24
   26
   24
   24
   26
   26
   Glucose
   311
   111
   Other labs: PT / PTT / INR:12.2/22.8/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/1.2, Amylase
   / Lipase:109/374, Differential-Neuts:83.5 %, Band:0.0 %, Lymph:10.8 %,
   Mono:5.3 %, Eos:0.1 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:326 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Imaging: Echo- EF 20%, apical akinesis, LV hypokinesis
   CT Torso- no PE, no aneurysm/ dissection, no evidence of pancreatitis
   CXR-
   Microbiology: Sputum- poor smple
   Blood- pending
   Assessment and Plan
   54 yo morbidly obese woman admitted w/ hypoxemic resp failure and
   shock.
   (1) ACUTE RESP FAILURE - DDx includes pna + cardiogenic edema/
   effusions
   -cont vanco + zosyn empirically; re-send sputum cx, repeat flu rule out
   though not high on ddx
   -diuresis to target TBB -1-2L/d; goal CVP ~5
   - extubate today if passes SBT- may need direct to CPAP given very high
   likelihood for OSA
   (2) SHOCK - resolved, presumed septic; 10pt hct drop as well but no
   clinical correlate
   -cont to monitor Hct and manage infection as above
   -FACTT trial based diuresis today to aid liberation from vent
   (3) ACUTE ANEMIA - evaluating for occult loss vs hemolysis
   -serial hct
   -hemolysis labs
   (4) CARDIOMYOPATHY- low EF unclear etiology; no ACS and clean cath in
   [**2110**]. Takotsubo physiology an intriguing possibility given pattern of
   HK/AK on echo
   -f/u thiamine levels
   -eventual low-dose BB and ACE
   -appreciate Cards input
   (5) PSYCH- resume home Celexa
   (6) OSA
 would initiate nocturnal BiPAP. Can try auto BiPAP if
   available with EPAP [**5-10**], pressure support of 5, vs. autoCPAP 5-20cm.
   Will need to address sleep apnea longterm. Would push for outpatient
   sleep study/titration.
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:  Insulin infusion, Blood sugar well controlled
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   20 Gauge - [**2121-1-30**] 01:27 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2121-02-01 08:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    54 yo morbidly obese woman admitted [**1-30**] w/ sudden-onset hypoxemic resp
   failure and shock
   24 Hour Events:
 SPUTUM CULTURE - At [**2121-1-31**] 12:00 PM
 ULTRASOUND - At [**2121-1-31**] 01:00 PM
   R lower extremity (inner thigh) for ? abcess/cellulitis.-US shows fluid
   collection, recommended MRI to eval further
 NASAL SWAB - At [**2121-1-31**] 01:15 PM
   flu swab resent d/t insufficient cells from previous sample.
 INVASIVE VENTILATION - STOP [**2121-1-31**] 03:13 PM
 EKG - At [**2121-1-31**] 10:20 PM
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-31**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 12:00 AM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-1-31**] 04:00 PM
   Furosemide (Lasix) - [**2121-1-31**] 05:30 PM
   Famotidine (Pepcid) - [**2121-1-31**] 08:30 PM
   Hydromorphone (Dilaudid) - [**2121-1-31**] 10:20 PM
   RISS
   ASA
   Statin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-1**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 83 (77 - 101) bpm
   BP: 130/73(94) {90/51(65) - 136/77(99)} mmHg
   RR: 17 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 18 (6 - 19)mmHg
   Total In:
                                                                  2,673 mL
                                                                    182 mL
   PO:
   TF:
   IVF:
                                                                  2,553 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  3,671 mL
                                                                    720 mL
   Urine:
                                                                  3,671 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                   -539 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (497 - 497) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.41/44/95.[**Numeric Identifier 253**]/28/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Gen: alert, NAD
   Skin:  no rash
   HEENT: PERRL, anicteric
   CV: RRR, no m/r/g
   Lungs: bibasilar rales
   Abd: obese, soft, NTND
   Extrem: right thigh with soft tissue swelling. [**12-28**]+ edema bilat
   Neurologic: no focal deficits
   Labs / Radiology
   11.3 g/dL
   156 K/uL
   134 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   23 mg/dL
   103 mEq/L
   138 mEq/L
   34.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
   WBC
   10.7
   6.3
   Hct
   40.5
   37.9
   36.3
   34.3
   Plt
   276
   156
   Cr
   0.7
   0.6
   TCO2
   24
   26
   26
   25
   30
   29
   Glucose
   111
   134
   Other labs: PT / PTT / INR:11.9/23.6/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:123/182, Differential-Neuts:64.0 %, Band:0.0 %, Lymph:28.8 %,
   Mono:5.2 %, Eos:1.8 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   54 yo morbidly obese woman, h/o cardiomyopathy (extent unknown)
   admitted w/ hypoxemic resp failure and shock.
   (1) ACUTE RESP FAILURE - DDx includes pna + cardiogenic edema/
   effusions
   -started vanco + zosyn empirically; re-sent sputum cx, repeat flu rule
   out though not high on ddx. Now looks like no pneumonia, only effusions
   from CHF.  Will stop antibiotics today
   -diuresis to target TBB -1-2L/d; goal CVP ~5
   - extubated yesterday, doing well on 2L
   -follow up pleural effusions to make sure they resolve with diuresis
   -desaturated on BIPAP last night so was on nasal cannula overnight.
   Will try CPAP at night tonight due to h/o OSA
   (2) SHOCK - resolved, presumed septic; 10pt hct drop as well but no
   clinical correlate
   -cont to monitor Hct and manage infection as above
   -FACTT trial based diuresis today to aid liberation from vent
   (3) ACUTE ANEMIA - evaluating for occult loss vs hemolysis
   -serial hct, guaiac stools
   -hemolysis labs slightly high but not convincing for  hemolysis, and
   smear normal. ? due to fluid shift.  Will continue to follow closely
   (4) CARDIOMYOPATHY- low EF unclear etiology; no ACS and clean cath in
   [**2110**]. Takotsubo physiology an intriguing possibility given pattern of
   HK/AK on echo
   -f/u thiamine levels
   -eventual low-dose BB and ACE after additional diuresis
   -appreciate Cards input-cardiac MRI when diuresed
   (5) PSYCH- resume home Celexa
   (6) Thigh collection: noted on exam and ultrasound.  ? if could be a
   source of infection.  Surgery consult today to evaluate.
   (6) OSA
 would initiate nocturnal CPAP since .
   ICU Care
   Nutrition: heart healthy, diabetic diet.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   22 Gauge - [**2121-1-31**] 09:00 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: famotidine
   Code status: full
   Disposition : ICU, ? call out later today
   Total time spent: 30 min

2121-02-01 08:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    54 yo morbidly obese woman admitted [**1-30**] w/ sudden-onset hypoxemic resp
   failure and shock
   24 Hour Events:
 SPUTUM CULTURE - At [**2121-1-31**] 12:00 PM
 ULTRASOUND - At [**2121-1-31**] 01:00 PM
   R lower extremity (inner thigh) for ? abcess/cellulitis.-US shows fluid
   collection, recommended MRI to eval further
 NASAL SWAB - At [**2121-1-31**] 01:15 PM
   flu swab resent d/t insufficient cells from previous sample.
 INVASIVE VENTILATION - STOP [**2121-1-31**] 03:13 PM
 EKG - At [**2121-1-31**] 10:20 PM
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-31**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 12:00 AM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-1-31**] 04:00 PM
   Furosemide (Lasix) - [**2121-1-31**] 05:30 PM
   Famotidine (Pepcid) - [**2121-1-31**] 08:30 PM
   Hydromorphone (Dilaudid) - [**2121-1-31**] 10:20 PM
   RISS
   ASA
   Statin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-1**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 83 (77 - 101) bpm
   BP: 130/73(94) {90/51(65) - 136/77(99)} mmHg
   RR: 17 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 18 (6 - 19)mmHg
   Total In:
                                                                  2,673 mL
                                                                    182 mL
   PO:
   TF:
   IVF:
                                                                  2,553 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  3,671 mL
                                                                    720 mL
   Urine:
                                                                  3,671 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                   -539 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (497 - 497) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.41/44/95.[**Numeric Identifier 253**]/28/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   156 K/uL
   134 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   23 mg/dL
   103 mEq/L
   138 mEq/L
   34.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
   WBC
   10.7
   6.3
   Hct
   40.5
   37.9
   36.3
   34.3
   Plt
   276
   156
   Cr
   0.7
   0.6
   TCO2
   24
   26
   26
   25
   30
   29
   Glucose
   111
   134
   Other labs: PT / PTT / INR:11.9/23.6/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:123/182, Differential-Neuts:64.0 %, Band:0.0 %, Lymph:28.8 %,
   Mono:5.2 %, Eos:1.8 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   54 yo morbidly obese woman admitted w/ hypoxemic resp failure and
   shock.
   (1) ACUTE RESP FAILURE - DDx includes pna + cardiogenic edema/
   effusions
   -cont vanco + zosyn empirically; re-send sputum cx, repeat flu rule out
   though not high on ddx
   -diuresis to target TBB -1-2L/d; goal CVP ~5
   - extubate today if passes SBT- may need direct to CPAP given very high
   likelihood for OSA
   (2) SHOCK - resolved, presumed septic; 10pt hct drop as well but no
   clinical correlate
   -cont to monitor Hct and manage infection as above
   -FACTT trial based diuresis today to aid liberation from vent
   (3) ACUTE ANEMIA - evaluating for occult loss vs hemolysis
   -serial hct
   -hemolysis labs
   (4) CARDIOMYOPATHY- low EF unclear etiology; no ACS and clean cath in
   [**2110**]. Takotsubo physiology an intriguing possibility given pattern of
   HK/AK on echo
   -f/u thiamine levels
   -eventual low-dose BB and ACE
   -appreciate Cards input
   (5) PSYCH- resume home Celexa
   (6) OSA
 would initiate nocturnal BiPAP. Can try auto BiPAP if
   available with EPAP [**5-10**], pressure support of 5, vs. autoCPAP 5-20cm.
   Will need to address sleep apnea longterm. Would push for outpatient
   sleep study/titration.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   22 Gauge - [**2121-1-31**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2121-02-01 08:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2121-1-31**] 12:00 PM
 ULTRASOUND - At [**2121-1-31**] 01:00 PM
   R lower extremity (inner thigh) for ? abcess/cellulitis.
 NASAL SWAB - At [**2121-1-31**] 01:15 PM
   flu swab resent d/t insufficient cells from previous sample.
 INVASIVE VENTILATION - STOP [**2121-1-31**] 03:13 PM
 EKG - At [**2121-1-31**] 10:20 PM
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-31**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-1-31**] 04:00 PM
   Furosemide (Lasix) - [**2121-1-31**] 05:30 PM
   Famotidine (Pepcid) - [**2121-1-31**] 08:30 PM
   Hydromorphone (Dilaudid) - [**2121-1-31**] 10:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-1**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 83 (77 - 101) bpm
   BP: 130/73(94) {90/51(65) - 136/77(99)} mmHg
   RR: 17 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 18 (6 - 19)mmHg
   Total In:
                                                                  2,673 mL
                                                                    182 mL
   PO:
   TF:
   IVF:
                                                                  2,553 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  3,671 mL
                                                                    720 mL
   Urine:
                                                                  3,671 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                   -539 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (497 - 497) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.41/44/95.[**Numeric Identifier 253**]/28/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   156 K/uL
   134 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   23 mg/dL
   103 mEq/L
   138 mEq/L
   34.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
   WBC
   10.7
   6.3
   Hct
   40.5
   37.9
   36.3
   34.3
   Plt
   276
   156
   Cr
   0.7
   0.6
   TCO2
   24
   26
   26
   25
   30
   29
   Glucose
   111
   134
   Other labs: PT / PTT / INR:11.9/23.6/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:123/182, Differential-Neuts:64.0 %, Band:0.0 %, Lymph:28.8 %,
   Mono:5.2 %, Eos:1.8 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   22 Gauge - [**2121-1-31**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2121-02-01 08:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    54 yo morbidly obese woman admitted [**1-30**] w/ sudden-onset hypoxemic resp
   failure and shock
   24 Hour Events:
 SPUTUM CULTURE - At [**2121-1-31**] 12:00 PM
 ULTRASOUND - At [**2121-1-31**] 01:00 PM
   R lower extremity (inner thigh) for ? abcess/cellulitis.-US shows fluid
   collection, recommended MRI to eval further
 NASAL SWAB - At [**2121-1-31**] 01:15 PM
   flu swab resent d/t insufficient cells from previous sample.
 INVASIVE VENTILATION - STOP [**2121-1-31**] 03:13 PM
 EKG - At [**2121-1-31**] 10:20 PM
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-31**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 12:00 AM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-1-31**] 04:00 PM
   Furosemide (Lasix) - [**2121-1-31**] 05:30 PM
   Famotidine (Pepcid) - [**2121-1-31**] 08:30 PM
   Hydromorphone (Dilaudid) - [**2121-1-31**] 10:20 PM
   RISS
   ASA
   Statin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-1**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 83 (77 - 101) bpm
   BP: 130/73(94) {90/51(65) - 136/77(99)} mmHg
   RR: 17 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 18 (6 - 19)mmHg
   Total In:
                                                                  2,673 mL
                                                                    182 mL
   PO:
   TF:
   IVF:
                                                                  2,553 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  3,671 mL
                                                                    720 mL
   Urine:
                                                                  3,671 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                   -539 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (497 - 497) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.41/44/95.[**Numeric Identifier 253**]/28/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Gen: alert, NAD
   Skin:  no rash
   HEENT: PERRL, anicteric
   CV: RRR, no m/r/g
   Lungs: bibasilar rales
   Abd: obese, soft, NTND
   Extrem: right thigh with soft tissue swelling. [**12-28**]+ edema bilat
   Neurologic: no focal deficits
   Labs / Radiology
   11.3 g/dL
   156 K/uL
   134 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   23 mg/dL
   103 mEq/L
   138 mEq/L
   34.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
   WBC
   10.7
   6.3
   Hct
   40.5
   37.9
   36.3
   34.3
   Plt
   276
   156
   Cr
   0.7
   0.6
   TCO2
   24
   26
   26
   25
   30
   29
   Glucose
   111
   134
   Other labs: PT / PTT / INR:11.9/23.6/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:123/182, Differential-Neuts:64.0 %, Band:0.0 %, Lymph:28.8 %,
   Mono:5.2 %, Eos:1.8 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   54 yo morbidly obese woman, h/o cardiomyopathy (extent unknown)
   admitted w/ hypoxemic resp failure and shock.
   (1) ACUTE RESP FAILURE - DDx includes pna + cardiogenic edema/
   effusions
   -started vanco + zosyn empirically; re-sent sputum cx, repeat flu rule
   out though not high on ddx. Now looks like no pneumonia, only effusions
   from CHF.  Will stop antibiotics today
   -diuresis to target TBB -1-2L/d; goal CVP ~5
   - extubated yesterday, doing well on 2L
   -follow up pleural effusions to make sure they resolve with diuresis
   -desaturated on BIPAP last night so was on nasal cannula overnight.
   Will try CPAP at night tonight due to h/o OSA
   (2) SHOCK - resolved, presumed septic; 10pt hct drop as well but no
   clinical correlate
   -cont to monitor Hct and manage infection as above
   -FACTT trial based diuresis today to aid liberation from vent
   (3) ACUTE ANEMIA - evaluating for occult loss vs hemolysis
   -serial hct, guaiac stools
   -hemolysis labs slightly high but not convincing for  hemolysis, and
   smear normal. ? due to fluid shift.  Will continue to follow closely
   (4) CARDIOMYOPATHY- low EF unclear etiology; no ACS and clean cath in
   [**2110**]. Takotsubo physiology an intriguing possibility given pattern of
   HK/AK on echo
   -f/u thiamine levels
   -eventual low-dose BB and ACE after additional diuresis
   -appreciate Cards input-cardiac MRI when diuresed
   (5) PSYCH- resume home Celexa
   (6) Thigh collection: noted on exam and ultrasound.  ? if could be a
   source of infection.  Surgery consult today to evaluate.
   (6) OSA
 would initiate nocturnal CPAP since .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   22 Gauge - [**2121-1-31**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2121-02-01 08:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    54 yo morbidly obese woman admitted w/ hypoxemic resp failure and
   shock
   24 Hour Events:
 SPUTUM CULTURE - At [**2121-1-31**] 12:00 PM
 ULTRASOUND - At [**2121-1-31**] 01:00 PM
   R lower extremity (inner thigh) for ? abcess/cellulitis.
 NASAL SWAB - At [**2121-1-31**] 01:15 PM
   flu swab resent d/t insufficient cells from previous sample.
 INVASIVE VENTILATION - STOP [**2121-1-31**] 03:13 PM
 EKG - At [**2121-1-31**] 10:20 PM
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-31**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-1-31**] 04:00 PM
   Furosemide (Lasix) - [**2121-1-31**] 05:30 PM
   Famotidine (Pepcid) - [**2121-1-31**] 08:30 PM
   Hydromorphone (Dilaudid) - [**2121-1-31**] 10:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-1**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 83 (77 - 101) bpm
   BP: 130/73(94) {90/51(65) - 136/77(99)} mmHg
   RR: 17 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 18 (6 - 19)mmHg
   Total In:
                                                                  2,673 mL
                                                                    182 mL
   PO:
   TF:
   IVF:
                                                                  2,553 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  3,671 mL
                                                                    720 mL
   Urine:
                                                                  3,671 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                   -539 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (497 - 497) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.41/44/95.[**Numeric Identifier 253**]/28/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   156 K/uL
   134 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   23 mg/dL
   103 mEq/L
   138 mEq/L
   34.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
   WBC
   10.7
   6.3
   Hct
   40.5
   37.9
   36.3
   34.3
   Plt
   276
   156
   Cr
   0.7
   0.6
   TCO2
   24
   26
   26
   25
   30
   29
   Glucose
   111
   134
   Other labs: PT / PTT / INR:11.9/23.6/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:123/182, Differential-Neuts:64.0 %, Band:0.0 %, Lymph:28.8 %,
   Mono:5.2 %, Eos:1.8 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   54 yo morbidly obese woman admitted w/ hypoxemic resp failure and
   shock.
   (1) ACUTE RESP FAILURE - DDx includes pna + cardiogenic edema/
   effusions
   -cont vanco + zosyn empirically; re-send sputum cx, repeat flu rule out
   though not high on ddx
   -diuresis to target TBB -1-2L/d; goal CVP ~5
   - extubate today if passes SBT- may need direct to CPAP given very high
   likelihood for OSA
   (2) SHOCK - resolved, presumed septic; 10pt hct drop as well but no
   clinical correlate
   -cont to monitor Hct and manage infection as above
   -FACTT trial based diuresis today to aid liberation from vent
   (3) ACUTE ANEMIA - evaluating for occult loss vs hemolysis
   -serial hct
   -hemolysis labs
   (4) CARDIOMYOPATHY- low EF unclear etiology; no ACS and clean cath in
   [**2110**]. Takotsubo physiology an intriguing possibility given pattern of
   HK/AK on echo
   -f/u thiamine levels
   -eventual low-dose BB and ACE
   -appreciate Cards input
   (5) PSYCH- resume home Celexa
   (6) OSA
 would initiate nocturnal BiPAP. Can try auto BiPAP if
   available with EPAP [**5-10**], pressure support of 5, vs. autoCPAP 5-20cm.
   Will need to address sleep apnea longterm. Would push for outpatient
   sleep study/titration.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   22 Gauge - [**2121-1-31**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2121-02-01 08:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2121-1-31**] 12:00 PM
 ULTRASOUND - At [**2121-1-31**] 01:00 PM
   R lower extremity (inner thigh) for ? abcess/cellulitis.
 NASAL SWAB - At [**2121-1-31**] 01:15 PM
   flu swab resent d/t insufficient cells from previous sample.
 INVASIVE VENTILATION - STOP [**2121-1-31**] 03:13 PM
 EKG - At [**2121-1-31**] 10:20 PM
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-31**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-1-31**] 04:00 PM
   Furosemide (Lasix) - [**2121-1-31**] 05:30 PM
   Famotidine (Pepcid) - [**2121-1-31**] 08:30 PM
   Hydromorphone (Dilaudid) - [**2121-1-31**] 10:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-1**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 83 (77 - 101) bpm
   BP: 130/73(94) {90/51(65) - 136/77(99)} mmHg
   RR: 17 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 18 (6 - 19)mmHg
   Total In:
                                                                  2,673 mL
                                                                    182 mL
   PO:
   TF:
   IVF:
                                                                  2,553 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  3,671 mL
                                                                    720 mL
   Urine:
                                                                  3,671 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                   -539 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (497 - 497) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.41/44/95.[**Numeric Identifier 253**]/28/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   156 K/uL
   134 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   23 mg/dL
   103 mEq/L
   138 mEq/L
   34.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
   WBC
   10.7
   6.3
   Hct
   40.5
   37.9
   36.3
   34.3
   Plt
   276
   156
   Cr
   0.7
   0.6
   TCO2
   24
   26
   26
   25
   30
   29
   Glucose
   111
   134
   Other labs: PT / PTT / INR:11.9/23.6/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:123/182, Differential-Neuts:64.0 %, Band:0.0 %, Lymph:28.8 %,
   Mono:5.2 %, Eos:1.8 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   54 yo morbidly obese woman admitted w/ hypoxemic resp failure and
   shock.
   (1) ACUTE RESP FAILURE - DDx includes pna + cardiogenic edema/
   effusions
   -cont vanco + zosyn empirically; re-send sputum cx, repeat flu rule out
   though not high on ddx
   -diuresis to target TBB -1-2L/d; goal CVP ~5
   - extubate today if passes SBT- may need direct to CPAP given very high
   likelihood for OSA
   (2) SHOCK - resolved, presumed septic; 10pt hct drop as well but no
   clinical correlate
   -cont to monitor Hct and manage infection as above
   -FACTT trial based diuresis today to aid liberation from vent
   (3) ACUTE ANEMIA - evaluating for occult loss vs hemolysis
   -serial hct
   -hemolysis labs
   (4) CARDIOMYOPATHY- low EF unclear etiology; no ACS and clean cath in
   [**2110**]. Takotsubo physiology an intriguing possibility given pattern of
   HK/AK on echo
   -f/u thiamine levels
   -eventual low-dose BB and ACE
   -appreciate Cards input
   (5) PSYCH- resume home Celexa
   (6) OSA
 would initiate nocturnal BiPAP. Can try auto BiPAP if
   available with EPAP [**5-10**], pressure support of 5, vs. autoCPAP 5-20cm.
   Will need to address sleep apnea longterm. Would push for outpatient
   sleep study/titration.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   22 Gauge - [**2121-1-31**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2121-02-01 08:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    54 yo morbidly obese woman admitted [**1-30**] w/ sudden-onset hypoxemic resp
   failure and shock
   24 Hour Events:
 SPUTUM CULTURE - At [**2121-1-31**] 12:00 PM
 ULTRASOUND - At [**2121-1-31**] 01:00 PM
   R lower extremity (inner thigh) for ? abcess/cellulitis.-US shows fluid
   collection, recommended MRI to eval further
 NASAL SWAB - At [**2121-1-31**] 01:15 PM
   flu swab resent d/t insufficient cells from previous sample.
 INVASIVE VENTILATION - STOP [**2121-1-31**] 03:13 PM
 EKG - At [**2121-1-31**] 10:20 PM
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-31**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-1-31**] 04:00 PM
   Furosemide (Lasix) - [**2121-1-31**] 05:30 PM
   Famotidine (Pepcid) - [**2121-1-31**] 08:30 PM
   Hydromorphone (Dilaudid) - [**2121-1-31**] 10:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-1**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 83 (77 - 101) bpm
   BP: 130/73(94) {90/51(65) - 136/77(99)} mmHg
   RR: 17 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 18 (6 - 19)mmHg
   Total In:
                                                                  2,673 mL
                                                                    182 mL
   PO:
   TF:
   IVF:
                                                                  2,553 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  3,671 mL
                                                                    720 mL
   Urine:
                                                                  3,671 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                   -539 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (497 - 497) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.41/44/95.[**Numeric Identifier 253**]/28/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   156 K/uL
   134 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   23 mg/dL
   103 mEq/L
   138 mEq/L
   34.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
   WBC
   10.7
   6.3
   Hct
   40.5
   37.9
   36.3
   34.3
   Plt
   276
   156
   Cr
   0.7
   0.6
   TCO2
   24
   26
   26
   25
   30
   29
   Glucose
   111
   134
   Other labs: PT / PTT / INR:11.9/23.6/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:123/182, Differential-Neuts:64.0 %, Band:0.0 %, Lymph:28.8 %,
   Mono:5.2 %, Eos:1.8 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   54 yo morbidly obese woman admitted w/ hypoxemic resp failure and
   shock.
   (1) ACUTE RESP FAILURE - DDx includes pna + cardiogenic edema/
   effusions
   -cont vanco + zosyn empirically; re-send sputum cx, repeat flu rule out
   though not high on ddx
   -diuresis to target TBB -1-2L/d; goal CVP ~5
   - extubate today if passes SBT- may need direct to CPAP given very high
   likelihood for OSA
   (2) SHOCK - resolved, presumed septic; 10pt hct drop as well but no
   clinical correlate
   -cont to monitor Hct and manage infection as above
   -FACTT trial based diuresis today to aid liberation from vent
   (3) ACUTE ANEMIA - evaluating for occult loss vs hemolysis
   -serial hct
   -hemolysis labs
   (4) CARDIOMYOPATHY- low EF unclear etiology; no ACS and clean cath in
   [**2110**]. Takotsubo physiology an intriguing possibility given pattern of
   HK/AK on echo
   -f/u thiamine levels
   -eventual low-dose BB and ACE
   -appreciate Cards input
   (5) PSYCH- resume home Celexa
   (6) OSA
 would initiate nocturnal BiPAP. Can try auto BiPAP if
   available with EPAP [**5-10**], pressure support of 5, vs. autoCPAP 5-20cm.
   Will need to address sleep apnea longterm. Would push for outpatient
   sleep study/titration.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   22 Gauge - [**2121-1-31**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2121-02-01 10:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2121-1-31**] 12:00 PM
 ULTRASOUND - At [**2121-1-31**] 01:00 PM
   R lower extremity (inner thigh) for ? abcess/cellulitis.
 NASAL SWAB - At [**2121-1-31**] 01:15 PM
   flu swab resent d/t insufficient cells from previous sample.
 INVASIVE VENTILATION - STOP [**2121-1-31**] 03:13 PM
 EKG - At [**2121-1-31**] 10:20 PM
   - Extubated without complication
   - Cardiology consult recommended cardiac MRI, will need to have MRI
   checklist filled ahead of time, plan for scan Tues/Wed, will require 1
   to 1.5hrs flat
   - RN pointed out area of thigh redness / fullness on right medial
   thigh, US odered (pending)
   - Received Lasix 40mg [**Hospital1 **]
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-31**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-1-31**] 04:00 PM
   Furosemide (Lasix) - [**2121-1-31**] 05:30 PM
   Famotidine (Pepcid) - [**2121-1-31**] 08:30 PM
   Hydromorphone (Dilaudid) - [**2121-1-31**] 10:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-1**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36
C (96.8
   HR: 84 (77 - 101) bpm
   BP: 136/74(97) {98/57(72) - 136/77(99)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 18 (6 - 19)mmHg
   Total In:
                                                                  2,673 mL
                                                                    304 mL
   PO:
   TF:
   IVF:
                                                                  2,553 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  3,671 mL
                                                                    840 mL
   Urine:
                                                                  3,671 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                   -536 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (497 - 497) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.41/44/95.[**Numeric Identifier 253**]/28/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   156 K/uL
   11.3 g/dL
   134 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   23 mg/dL
   103 mEq/L
   138 mEq/L
   34.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
   WBC
   10.7
   6.3
   Hct
   40.5
   37.9
   36.3
   34.3
   Plt
   276
   156
   Cr
   0.7
   0.6
   TCO2
   24
   26
   26
   25
   30
   29
   Glucose
   111
   134
   Other labs: PT / PTT / INR:11.9/23.6/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:35/46, Differential-Neuts:64.0 %, Band:0.0 %, Lymph:28.8 %,
   Mono:5.2 %, Eos:1.8 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PANCREATITIS, ACUTE
   54 year old woman with past medical history of morbid obesity (s/p
   gastric lap banding), hypertension, hyperlipidemia, presenting with
   acute respiratory distress and malignant hypertension.
   .
   # RESPIRATORY FAILURE: Differential initially broad; including
   pulmonary edema (has low EF and pulmonary edema on CXR) vs pneumonia (?
   Infiltrates on exam, elevated WBC on admission/hypotension); CT Chest
   does not show any evidence of PE thus heparin gtt stopped; it does show
   ground glass opacifications which could represent edema vs infection vs
   inflammation plus b/l effusions. Pt was given initial dose of Lasix and
   covered broadly with vanc/zosyn on arrival. Respiratory status
   improving; pt was weaned overnight to PSV 8/8 and doing well
   .Continue PSV and repeat ABG; RSBI and ? able to extubated
   - possible extubation
   -Continue broad coverage with Vanc/Zosyn for possible pneumonia
   - f/u sputum
   -F./u final CT read but no evidnece of PE on initial read
   -will plan to diurese, goal -1L today. CVP goal [**2-28**].   Will give lasix
   20mg IV x1 for now and monitor
   # HYPOTENSION;Initial differential concerning for septic vs cardiogenic
   shock vs PE; however stat ECHO showed EF20% and pts initial
   presentation was hypertension; 3 sets of cardiac enzymes are negative
   and EKG not felt to be c/w ACS. Pt did have a fever/leukocytosis (now
   trending down) making  septic shock more likely.  Other possibilities
   include hemorrhagic given Hct drop (52 to 40) and pulsatile mass on
   exam; but CT chest did not show evidence of bleed or dissecting
   aneurysm to account for this.  LFTs do show evidence of pancreatitis
   although CT did not show any evidnece of this. Pt weaned off pressors
   this AM
   -- CVL in place
   --Broad coverage with Vanc/Zosyn, day #2
   --IVF (gentle given low EF), NPO for pancreatitis, repeat
   amylase/lipase this AM
   --Goal MAP>65
   -- f/u final read of CT to r/o RP bleed
   .
   #. Acute Anemia: No evidence of active bleed on CT scan.  Hct has been
   stable overnight.
   - monitor Hct
   - f/u final CT to look for RP bleed
   - hemolysis labs
   #Cardiomyopathy- EF 20% on admission; unclear cause; cardiology
   consulted because of dynamic ekg changes seen and concern for
   cardiogenic shock. Felt pt unlikely having ACS
   -Consider swan
   -Continue aspirin, statin
   - TSH and thiamine
   .
   # DIABETES: Pt with very high glucose on presentation
   -- Continue Insulin drip with conservative goal 120 to 140
   -- will switch to sliding scale
   ..
   # OBESITY: S/P Lap banding, pt at increased risk of DVT, will need to
   use Ideal body weight for ventilation
   .
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: sq heparin
   # Access: peripherals
   # Communication: Wife, ([**Telephone/Fax (1) 11329**]
   # Code: Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2121-02-01 10:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2121-1-31**] 12:00 PM
 ULTRASOUND - At [**2121-1-31**] 01:00 PM
   R lower extremity (inner thigh) for ? abcess/cellulitis.
 NASAL SWAB - At [**2121-1-31**] 01:15 PM
   flu swab resent d/t insufficient cells from previous sample.
 INVASIVE VENTILATION - STOP [**2121-1-31**] 03:13 PM
 EKG - At [**2121-1-31**] 10:20 PM
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-31**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-1-31**] 04:00 PM
   Furosemide (Lasix) - [**2121-1-31**] 05:30 PM
   Famotidine (Pepcid) - [**2121-1-31**] 08:30 PM
   Hydromorphone (Dilaudid) - [**2121-1-31**] 10:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-1**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36
C (96.8
   HR: 84 (77 - 101) bpm
   BP: 136/74(97) {98/57(72) - 136/77(99)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 18 (6 - 19)mmHg
   Total In:
                                                                  2,673 mL
                                                                    304 mL
   PO:
   TF:
   IVF:
                                                                  2,553 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  3,671 mL
                                                                    840 mL
   Urine:
                                                                  3,671 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                   -536 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (497 - 497) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.41/44/95.[**Numeric Identifier 253**]/28/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   156 K/uL
   11.3 g/dL
   134 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   23 mg/dL
   103 mEq/L
   138 mEq/L
   34.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
   WBC
   10.7
   6.3
   Hct
   40.5
   37.9
   36.3
   34.3
   Plt
   276
   156
   Cr
   0.7
   0.6
   TCO2
   24
   26
   26
   25
   30
   29
   Glucose
   111
   134
   Other labs: PT / PTT / INR:11.9/23.6/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:35/46, Differential-Neuts:64.0 %, Band:0.0 %, Lymph:28.8 %,
   Mono:5.2 %, Eos:1.8 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PANCREATITIS, ACUTE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2121-02-01 10:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2121-1-31**] 12:00 PM
 ULTRASOUND - At [**2121-1-31**] 01:00 PM
   R lower extremity (inner thigh) for ? abcess/cellulitis.
 NASAL SWAB - At [**2121-1-31**] 01:15 PM
   flu swab resent d/t insufficient cells from previous sample.
 INVASIVE VENTILATION - STOP [**2121-1-31**] 03:13 PM
 EKG - At [**2121-1-31**] 10:20 PM
   - Extubated without complication
   - Cardiology consult recommended cardiac MRI, will need to have MRI
   checklist filled ahead of time, plan for scan Tues/Wed, will require 1
   to 1.5hrs flat
   - RN pointed out area of thigh redness / fullness on right medial
   thigh, US odered (pending)
   - Received Lasix 40mg [**Hospital1 **]
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-1-31**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-1-31**] 04:00 PM
   Furosemide (Lasix) - [**2121-1-31**] 05:30 PM
   Famotidine (Pepcid) - [**2121-1-31**] 08:30 PM
   Hydromorphone (Dilaudid) - [**2121-1-31**] 10:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-1**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36
C (96.8
   HR: 84 (77 - 101) bpm
   BP: 136/74(97) {98/57(72) - 136/77(99)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 18 (6 - 19)mmHg
   Total In:
                                                                  2,673 mL
                                                                    304 mL
   PO:
   TF:
   IVF:
                                                                  2,553 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  3,671 mL
                                                                    840 mL
   Urine:
                                                                  3,671 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                   -536 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 497 (497 - 497) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.41/44/95.[**Numeric Identifier 253**]/28/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   156 K/uL
   11.3 g/dL
   134 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   23 mg/dL
   103 mEq/L
   138 mEq/L
   34.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-30**]  09:02 PM
                             [**2121-1-30**]  11:17 PM
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
   WBC
   10.7
   6.3
   Hct
   40.5
   37.9
   36.3
   34.3
   Plt
   276
   156
   Cr
   0.7
   0.6
   TCO2
   24
   26
   26
   25
   30
   29
   Glucose
   111
   134
   Other labs: PT / PTT / INR:11.9/23.6/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:35/46, Differential-Neuts:64.0 %, Band:0.0 %, Lymph:28.8 %,
   Mono:5.2 %, Eos:1.8 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PANCREATITIS, ACUTE
   54 year old woman with past medical history of morbid obesity (s/p
   gastric lap banding), hypertension, hyperlipidemia, presenting with
   acute respiratory distress and malignant hypertension.
   .
   # RESPIRATORY FAILURE: Differential initially broad; including
   pulmonary edema (has low EF and pulmonary edema on CXR) vs pneumonia (?
   Infiltrates on exam, elevated WBC on admission/hypotension); CT Chest
   does not show any evidence of PE thus heparin gtt stopped; it does show
   ground glass opacifications which could represent edema vs infection vs
   inflammation plus b/l effusions. Pt was given initial dose of Lasix and
   covered broadly with vanc/zosyn on arrival. Respiratory status improved
   and extubated overnight. Pt did not toelrate BiPAP overnight
   -will d/c  Vanc/Zosyn given no evidence of infection
   - f/u sputum and respiratory viral sceen
   -will plan to diurese, goal -1L today. CVP goal [**2-28**].   Will give lasix
   40mg [**Hospital1 **]
   # HYPOTENSION;Initial differential concerning for septic vs cardiogenic
   shock vs PE; however stat ECHO showed EF20% and pts initial
   presentation was hypertension; 3 sets of cardiac enzymes are negative
   and EKG not felt to be c/w ACS.  Other possibilities include
   hemorrhagic given Hct drop (52 to 40) and pulsatile mass on exam; but
   CT chest did not show evidence of bleed or dissecting aneurysm to
   account for this.  LFTs do show evidence of pancreatitis although CT
   did not show any evidnece of this. Pt weaned off pressors yesterday
   -- CVL in place
   -- d/c Vanc/Zosyn and monitor
   --Goal MAP>65
   .
   #. Acute Anemia: No evidence of active bleed on CT scan.  Hct has been
   stable overnight. No evidence of hemolysis. Hct remaining stable
   - monitor Hct
   #Cardiomyopathy- EF 20% on admission; unclear cause; cardiology
   consulted because of dynamic ekg changes seen and concern for
   cardiogenic shock. Felt pt unlikely having ACS. Reduced EF of 20%
   Cardiology consult
   -Cardiac MRI
   - f/u Cardiology recs
   -Continue aspirin, statin
   .
   # DIABETES: Pt with very high glucose on presentation. Off insulin gtt.
   Cont ISS
   .
   #Right Medial Thigh Collection: U/S shows collection unable to fully
   assess.  Unclear whether infection underlying.
   - plan to re-eval and consider surgery consult
   .
   # OBESITY: S/P Lap banding, pt at increased risk of DVT, will need to
   use Ideal body weight for ventilation
   .
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: sq heparin
   # Access: peripherals
   # Communication: Wife, ([**Telephone/Fax (1) 11329**]
   # Code: Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Arterial Line - [**2121-1-30**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2121-02-02 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2121-2-1**] 02:33 PM
   -- Patient given 40mg IV lasix and -800 at midnight. Gave another 40mg
   IV lasix.
   -- pt was leaking urine around foley, so it was d/c
   -- respiratory screen negative
   -- sputum cx growing coag positive staph (d/c vanco earlier in the
   day), restarted vanco
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 09:00 AM
   Vancomycin - [**2121-2-2**] 12:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-2-2**] 12:10 AM
   Furosemide (Lasix) - [**2121-2-2**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-2**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 70 (70 - 95) bpm
   BP: 156/89(106) {128/41(60) - 166/95(112)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 18 (18 - 18)mmHg
   Total In:
                                                                  1,482 mL
                                                                    238 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                    762 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                  2,800 mL
   Urine:
                                                                  2,240 mL
                                                                  2,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -758 mL
                                                                 -2,562 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   194 K/uL
   11.6 g/dL
   188 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   26 mg/dL
   101 mEq/L
   140 mEq/L
   34.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
                             [**2121-2-1**]  05:34 PM
                             [**2121-2-2**]  03:45 AM
   WBC
   10.7
   6.3
   6.3
   Hct
   37.9
   36.3
   34.3
   34.2
   Plt
   [**Telephone/Fax (3) 11399**]
   Cr
   0.7
   0.6
   0.5
   0.6
   TCO2
   26
   26
   25
   30
   29
   Glucose
   111
   134
   177
   188
   Other labs: PT / PTT / INR:11.8/23.0/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:35/46, Differential-Neuts:62.2 %, Band:0.0 %, Lymph:28.5 %,
   Mono:6.0 %, Eos:3.1 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 ACUTE PAIN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PANCREATITIS, ACUTE
   54 year old woman with past medical history of morbid obesity (s/p
   gastric lap banding), hypertension, hyperlipidemia, presenting with
   acute respiratory distress and malignant hypertension.
   .
   # RESPIRATORY FAILURE: Differential initially broad; including
   pulmonary edema (has low EF and pulmonary edema on CXR) vs pneumonia (?
   Infiltrates on exam, elevated WBC on admission/hypotension); CT Chest
   does not show any evidence of PE thus heparin gtt stopped; it does show
   ground glass opacifications which could represent edema vs infection vs
   inflammation plus b/l effusions. Pt was given initial dose of Lasix and
   covered broadly with vanc/zosyn on arrival. Respiratory status improved
   and extubated overnight. Pt did not toelrate BiPAP overnight.  Patient
   diuresed well over past 24 hours (neg 2.5L) and currently on room air.
   Vanc resumed overnight for positive sputum gram stain (staph coag +)
   - Continue diuresed goal negative 1L over next 24 hrs- will give 40mg
   lasix now
   - f/u sputum culture
   # HYPOTENSION;Initial differential concerning for septic vs cardiogenic
   shock vs PE; however stat ECHO showed EF20% and pts initial
   presentation was hypertension; 3 sets of cardiac enzymes are negative
   and EKG not felt to be c/w ACS.  Other possibilities include
   hemorrhagic given Hct drop (52 to 40) and pulsatile mass on exam; but
   CT chest did not show evidence of bleed or dissecting aneurysm to
   account for this.  LFTs do show evidence of pancreatitis although CT
   did not show any evidence of this. Pt BP stable over past 48 hrs
   -- CVL in place
   -- Will adjust abx to complete 7 D of Levofloxacin
   .
   #. Acute Anemia: No evidence of active bleed on CT scan.  Hct has been
   stable overnight. No evidence of hemolysis. Hct remaining stable
   - monitor Hct
   #Cardiomyopathy- EF 20% on admission; unclear cause; cardiology
   consulted because of dynamic ekg changes seen and concern for
   cardiogenic shock. Felt pt unlikely having ACS. Reduced EF of 20%
   Cardiology consult
   -Cardiac MRI
   - f/u Cardiology recs
   -Continue aspirin, statin
   -Start Coreg 6.25BID today and then add ACE as BP tolerates
   .
   # DIABETES: Pt with very high glucose on presentation. Off insulin gtt.
   Cont ISS
   .
   #Right Medial Thigh Collection: U/S shows collection unable to fully
   assess.  Pt has known lipoma and evaluated as outpatient. No further
   inpatient evaluation at this time
   .
   # OBESITY: S/P Lap banding, pt at increased risk of DVT, will need to
   use Ideal body weight for ventilation
   .
   ICU Care
   Nutrition: cardiac diabetic diet
   Glycemic Control:   Insulin sliding scale
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM- attempt to get PIV and d/c CVL
   Prophylaxis:
   DVT: SQ UF Heparin- reduce to 5000 TID
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2121-02-02 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2121-2-1**] 02:33 PM
   -- Patient given 40mg IV lasix and -800 at midnight. Gave another 40mg
   IV lasix.
   -- pt was leaking urine around foley, so it was d/c
   -- respiratory screen negative
   -- sputum cx growing coag positive staph (d/c vanco earlier in the
   day), restarted vanco
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 09:00 AM
   Vancomycin - [**2121-2-2**] 12:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-2-2**] 12:10 AM
   Furosemide (Lasix) - [**2121-2-2**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-2**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 70 (70 - 95) bpm
   BP: 156/89(106) {128/41(60) - 166/95(112)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 18 (18 - 18)mmHg
   Total In:
                                                                  1,482 mL
                                                                    238 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                    762 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                  2,800 mL
   Urine:
                                                                  2,240 mL
                                                                  2,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -758 mL
                                                                 -2,562 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   194 K/uL
   11.6 g/dL
   188 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   26 mg/dL
   101 mEq/L
   140 mEq/L
   34.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
                             [**2121-2-1**]  05:34 PM
                             [**2121-2-2**]  03:45 AM
   WBC
   10.7
   6.3
   6.3
   Hct
   37.9
   36.3
   34.3
   34.2
   Plt
   [**Telephone/Fax (3) 11399**]
   Cr
   0.7
   0.6
   0.5
   0.6
   TCO2
   26
   26
   25
   30
   29
   Glucose
   111
   134
   177
   188
   Other labs: PT / PTT / INR:11.8/23.0/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:35/46, Differential-Neuts:62.2 %, Band:0.0 %, Lymph:28.5 %,
   Mono:6.0 %, Eos:3.1 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 ACUTE PAIN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PANCREATITIS, ACUTE
   54 year old woman with past medical history of morbid obesity (s/p
   gastric lap banding), hypertension, hyperlipidemia, presenting with
   acute respiratory distress and malignant hypertension.
   .
   # RESPIRATORY FAILURE: Differential initially broad; including
   pulmonary edema (has low EF and pulmonary edema on CXR) vs pneumonia (?
   Infiltrates on exam, elevated WBC on admission/hypotension); CT Chest
   does not show any evidence of PE thus heparin gtt stopped; it does show
   ground glass opacifications which could represent edema vs infection vs
   inflammation plus b/l effusions. Pt was given initial dose of Lasix and
   covered broadly with vanc/zosyn on arrival. Respiratory status improved
   and extubated overnight. Pt did not toelrate BiPAP overnight
   -will d/c  Vanc/Zosyn given no evidence of infection
   - f/u sputum and respiratory viral sceen
   -will plan to diurese, goal -1L today. CVP goal [**2-28**].   Will give lasix
   40mg [**Hospital1 **]
   # HYPOTENSION;Initial differential concerning for septic vs cardiogenic
   shock vs PE; however stat ECHO showed EF20% and pts initial
   presentation was hypertension; 3 sets of cardiac enzymes are negative
   and EKG not felt to be c/w ACS.  Other possibilities include
   hemorrhagic given Hct drop (52 to 40) and pulsatile mass on exam; but
   CT chest did not show evidence of bleed or dissecting aneurysm to
   account for this.  LFTs do show evidence of pancreatitis although CT
   did not show any evidnece of this. Pt weaned off pressors yesterday
   -- CVL in place
   -- d/c Vanc/Zosyn and monitor
   --Goal MAP>65
   .
   #. Acute Anemia: No evidence of active bleed on CT scan.  Hct has been
   stable overnight. No evidence of hemolysis. Hct remaining stable
   - monitor Hct
   #Cardiomyopathy- EF 20% on admission; unclear cause; cardiology
   consulted because of dynamic ekg changes seen and concern for
   cardiogenic shock. Felt pt unlikely having ACS. Reduced EF of 20%
   Cardiology consult
   -Cardiac MRI
   - f/u Cardiology recs
   -Continue aspirin, statin
   .
   # DIABETES: Pt with very high glucose on presentation. Off insulin gtt.
   Cont ISS
   .
   #Right Medial Thigh Collection: U/S shows collection unable to fully
   assess.  Unclear whether infection underlying.
   - plan to re-eval and consider surgery consult
   .
   # OBESITY: S/P Lap banding, pt at increased risk of DVT, will need to
   use Ideal body weight for ventilation
   .
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: sq heparin
   # Access: peripherals
   # Communication: Wife, ([**Telephone/Fax (1) 11329**]
   # Code: Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2121-02-02 07:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    54 yo morbidly obese woman admitted [**1-30**] w/ sudden-onset hypoxemic resp
   failure and shock
   24 Hour Events:
 ARTERIAL LINE - STOP [**2121-2-1**] 02:33 PM
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 09:00 AM
   Vancomycin - [**2121-2-2**] 12:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-2-2**] 12:10 AM
   Furosemide (Lasix) - [**2121-2-2**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-2**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 70 (70 - 95) bpm
   BP: 156/89(106) {128/41(60) - 166/95(112)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 18 (18 - 18)mmHg
   Total In:
                                                                  1,482 mL
                                                                    240 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                    762 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                  2,800 mL
   Urine:
                                                                  2,240 mL
                                                                  2,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -758 mL
                                                                 -2,560 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.6 g/dL
   194 K/uL
   188 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   26 mg/dL
   101 mEq/L
   140 mEq/L
   34.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
                             [**2121-2-1**]  05:34 PM
                             [**2121-2-2**]  03:45 AM
   WBC
   10.7
   6.3
   6.3
   Hct
   37.9
   36.3
   34.3
   34.2
   Plt
   [**Telephone/Fax (3) 11399**]
   Cr
   0.7
   0.6
   0.5
   0.6
   TCO2
   26
   26
   25
   30
   29
   Glucose
   111
   134
   177
   188
   Other labs: PT / PTT / INR:11.8/23.0/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:35/46, Differential-Neuts:62.2 %, Band:0.0 %, Lymph:28.5 %,
   Mono:6.0 %, Eos:3.1 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   54 yo morbidly obese woman, h/o cardiomyopathy (extent unknown)
   admitted w/ hypoxemic resp failure and shock.
   (1) ACUTE RESP FAILURE - DDx includes pna + cardiogenic edema/
   effusions
   -started vanco + zosyn empirically; re-sent sputum cx, repeat flu rule
   out though not high on ddx. Now looks like no pneumonia, only effusions
   from CHF.  Will stop antibiotics today
   -diuresis to target TBB -1-2L/d; goal CVP ~5
   - extubated yesterday, doing well on 2L
   -follow up pleural effusions to make sure they resolve with diuresis
   -desaturated on BIPAP last night so was on nasal cannula overnight.
   Will try CPAP at night tonight due to h/o OSA
   (2) SHOCK - resolved, presumed septic; 10pt hct drop as well but no
   clinical correlate
   -cont to monitor Hct and manage infection as above
   -FACTT trial based diuresis today to aid liberation from vent
   (3) ACUTE ANEMIA - evaluating for occult loss vs hemolysis
   -serial hct, guaiac stools
   -hemolysis labs slightly high but not convincing for  hemolysis, and
   smear normal. ? due to fluid shift.  Will continue to follow closely
   (4) CARDIOMYOPATHY- low EF unclear etiology; no ACS and clean cath in
   [**2110**]. Takotsubo physiology an intriguing possibility given pattern of
   HK/AK on echo
   -f/u thiamine levels
   -eventual low-dose BB and ACE after additional diuresis
   -appreciate Cards input-cardiac MRI when diuresed
   (5) PSYCH- resume home Celexa
   (6) Thigh collection: noted on exam and ultrasound.  ? if could be a
   source of infection.  Surgery consult today to evaluate.
   (6) OSA
 would initiate nocturnal CPAP since .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2121-02-02 07:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    54 yo morbidly obese woman admitted [**1-30**] w/ sudden-onset hypoxemic resp
   failure and shock, now extubated and improving with diuresis
   24 Hour Events:
 ARTERIAL LINE - STOP [**2121-2-1**] 02:33 PM
   Diuresing well
   Resp viral screen negative
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-2-2**] 12:23 AM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-2-2**] 12:10 AM
   Furosemide (Lasix) - [**2121-2-2**] 12:10 AM
   Famotidine
   Statin
   ASA
   RISS
   Dilaudid prn
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-2**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 70 (70 - 95) bpm
   BP: 156/89(106) {128/41(60) - 166/95(112)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 18 (18 - 18)mmHg
   Total In:
                                                                  1,482 mL
                                                                    240 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                    762 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                  2,800 mL
   Urine:
                                                                  2,240 mL
                                                                  2,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -758 mL
                                                                 -2,560 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   Gen: NAD, alert
   HEENT: PERRL, anicteric
   Neck: no JVD
   CV: RRR, no m/r/g
   Lungs:
   Abd:soft, NTND
   Extrem:
   Labs / Radiology
   11.6 g/dL
   194 K/uL
   188 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   26 mg/dL
   101 mEq/L
   140 mEq/L
   34.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
                             [**2121-2-1**]  05:34 PM
                             [**2121-2-2**]  03:45 AM
   WBC
   10.7
   6.3
   6.3
   Hct
   37.9
   36.3
   34.3
   34.2
   Plt
   [**Telephone/Fax (3) 11399**]
   Cr
   0.7
   0.6
   0.5
   0.6
   TCO2
   26
   26
   25
   30
   29
   Glucose
   111
   134
   177
   188
   Other labs: PT / PTT / INR:11.8/23.0/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:35/46, Differential-Neuts:62.2 %, Band:0.0 %, Lymph:28.5 %,
   Mono:6.0 %, Eos:3.1 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Sputum: coag neg staph
   Assessment and Plan
   54 yo morbidly obese woman, h/o cardiomyopathy (extent unknown)
   admitted w/ hypoxemic resp failure and shock.
   (1) ACUTE RESP FAILURE - DDx includes pna + cardiogenic edema/
   effusions
   -started vanco + zosyn empirically; re-sent sputum cx, repeat flu rule
   out though not high on ddx. Now looks like no pneumonia, only effusions
   from CHF.  Will stop antibiotics today
   -diuresis to target TBB -1-2L/d; goal CVP ~5
   - extubated yesterday, doing well on 2L
   -follow up pleural effusions to make sure they resolve with diuresis
   -desaturated on BIPAP last night so was on nasal cannula overnight.
   Will try CPAP at night tonight due to h/o OSA
   (2) SHOCK - resolved, presumed septic; 10pt hct drop as well but no
   clinical correlate
   -cont to monitor Hct and manage infection as above
   -FACTT trial based diuresis today to aid liberation from vent
   (3) ACUTE ANEMIA - evaluating for occult loss vs hemolysis
   -serial hct, guaiac stools
   -hemolysis labs slightly high but not convincing for  hemolysis, and
   smear normal. ? due to fluid shift.  Will continue to follow closely
   (4) CARDIOMYOPATHY- low EF unclear etiology; no ACS and clean cath in
   [**2110**]. Takotsubo physiology an intriguing possibility given pattern of
   HK/AK on echo
   -f/u thiamine levels
   -eventual low-dose BB and ACE after additional diuresis
   -appreciate Cards input-cardiac MRI when diuresed
   (5) PSYCH- resume home Celexa
   (6) Thigh collection: noted on exam and ultrasound.  ? if could be a
   source of infection.  Surgery consult today to evaluate.
   (6) OSA
 would initiate nocturnal CPAP since .
   (7) Hematuria:  will decrease prophylactic sc heparin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2121-02-02 07:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    54 yo morbidly obese woman admitted [**1-30**] w/ sudden-onset hypoxemic resp
   failure and shock, now extubated and improving with diuresis
   24 Hour Events:
 ARTERIAL LINE - STOP [**2121-2-1**] 02:33 PM
   Diuresing well
   Resp viral screen negative
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-2-2**] 12:23 AM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-2-2**] 12:10 AM
   Furosemide (Lasix) - [**2121-2-2**] 12:10 AM
   Famotidine
   Statin
   ASA
   RISS
   Dilaudid prn
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-2**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 70 (70 - 95) bpm
   BP: 156/89(106) {128/41(60) - 166/95(112)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 18 (18 - 18)mmHg
   Total In:
                                                                  1,482 mL
                                                                    240 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                    762 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                  2,800 mL
   Urine:
                                                                  2,240 mL
                                                                  2,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -758 mL
                                                                 -2,560 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   Gen: NAD, alert
   HEENT: PERRL, anicteric
   Neck: no JVD
   CV: RRR, no m/r/g
   Lungs:CTA
   Abd:soft, NTND
   Extrem: 2+ edema. Right thigh lipoma
   Labs / Radiology
   11.6 g/dL
   194 K/uL
   188 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   26 mg/dL
   101 mEq/L
   140 mEq/L
   34.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
                             [**2121-2-1**]  05:34 PM
                             [**2121-2-2**]  03:45 AM
   WBC
   10.7
   6.3
   6.3
   Hct
   37.9
   36.3
   34.3
   34.2
   Plt
   [**Telephone/Fax (3) 11399**]
   Cr
   0.7
   0.6
   0.5
   0.6
   TCO2
   26
   26
   25
   30
   29
   Glucose
   111
   134
   177
   188
   Other labs: PT / PTT / INR:11.8/23.0/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:35/46, Differential-Neuts:62.2 %, Band:0.0 %, Lymph:28.5 %,
   Mono:6.0 %, Eos:3.1 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Sputum: coag neg staph
   Assessment and Plan
   54 yo morbidly obese woman, h/o cardiomyopathy (extent unknown)
   admitted w/ hypoxemic resp failure and shock.
   (1) ACUTE RESP FAILURE - DDx includes pna + cardiogenic edema/
   effusions
   -started vanco + zosyn empirically; re-sent sputum cx, repeat flu rule
   out though not high on ddx. Now sputum with coag pos. staph, CVR
   improved.  Will treat with levoflox for total 7-day course
   -diuresis to target TBB -1L/d
   -CXR clearing
   -still ? OSA, but did not tolerate BiPAP
   (2) SHOCK - resolved, presumed septic; 10pt hct drop as well but no
   clinical correlate
   -cont to monitor Hct and manage infection as above-has been stable
   -likely cardiogenic, improved with diuresis
   (3) ACUTE ANEMIA - evaluating for occult loss vs hemolysis
   -serial hct, guaiac stools
   -hemolysis labs slightly high but not convincing for  hemolysis, and
   smear normal. ? due to fluid shift.  Will continue to follow closely
   (4) CARDIOMYOPATHY- low EF unclear etiology; no ACS and clean cath in
   [**2110**].  Was told she had cardiomyopathy at time of that cath, but extent
   unknown
   -f/u thiamine levels
   -starting low-dose carvedilol today.  If tolerates this should start
   ACE inhibitor before discharge
   -appreciate Cards input-cardiac MRI when diuresed
   -going to floor on cardiology service today
   (5) PSYCH- resume home Celexa
   (6) Thigh mass, known lipoma.  No intervention
   (6) OSA
 didn
t tolerate BiPAP, but would try CPAP at night
   (7) Hematuria:  will decrease prophylactic sc heparin
   ICU Care
   Nutrition: heart healthy diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM-d/c central line
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: famotidine
   Code status: full
   Disposition :to cardiology floor
   Total time spent: 30 min

2121-02-02 07:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    54 yo morbidly obese woman admitted [**1-30**] w/ sudden-onset hypoxemic resp
   failure and shock
   24 Hour Events:
 ARTERIAL LINE - STOP [**2121-2-1**] 02:33 PM
   Allergies:
   Morphine
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-2-1**] 09:00 AM
   Vancomycin - [**2121-2-2**] 12:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-2-2**] 12:10 AM
   Furosemide (Lasix) - [**2121-2-2**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-2**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 70 (70 - 95) bpm
   BP: 156/89(106) {128/41(60) - 166/95(112)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 18 (18 - 18)mmHg
   Total In:
                                                                  1,482 mL
                                                                    240 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                    762 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                  2,800 mL
   Urine:
                                                                  2,240 mL
                                                                  2,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -758 mL
                                                                 -2,560 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.6 g/dL
   194 K/uL
   188 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.2 mEq/L
   26 mg/dL
   101 mEq/L
   140 mEq/L
   34.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2121-1-31**]  04:23 AM
                             [**2121-1-31**]  04:38 AM
                             [**2121-1-31**]  06:32 AM
                             [**2121-1-31**]  10:00 AM
                             [**2121-1-31**]  02:28 PM
                             [**2121-1-31**]  03:57 PM
                             [**2121-1-31**]  05:37 PM
                             [**2121-2-1**]  04:48 AM
                             [**2121-2-1**]  05:34 PM
                             [**2121-2-2**]  03:45 AM
   WBC
   10.7
   6.3
   6.3
   Hct
   37.9
   36.3
   34.3
   34.2
   Plt
   [**Telephone/Fax (3) 11399**]
   Cr
   0.7
   0.6
   0.5
   0.6
   TCO2
   26
   26
   25
   30
   29
   Glucose
   111
   134
   177
   188
   Other labs: PT / PTT / INR:11.8/23.0/1.0, CK / CKMB /
   Troponin-T:68//0.05, ALT / AST:24/40, Alk Phos / T Bili:95/2.0, Amylase
   / Lipase:35/46, Differential-Neuts:62.2 %, Band:0.0 %, Lymph:28.5 %,
   Mono:6.0 %, Eos:3.1 %, D-dimer:1861 ng/mL, Lactic Acid:1.0 mmol/L,
   Albumin:3.9 g/dL, LDH:301 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-1-30**] 01:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: